US04262004
A stirred and warm solution of 4.5 parts of N-ethyl-2,3-dihydroimidazo[2,1-b]benzothiazol-6-amine in 30 parts of acetic acid is acidified with 2-propanol, saturated with gaseous hydrogen chloride. After cooling to room temperature, the formed hydrochloride salt is filtered off and dried at 150° C., yielding 2.1 parts of N-ethyl-2,3-dihydroimidazo[2,1-b]benzothiazol-6-amine monohydrochloride; mp. 289.2° C.

reactant | N-ethyl-2,3-dihydroimidazo[2,1-b]benzothiazol-6-amine | C(C)NC=1C=CC2=C(N3C(S2)=NCC3)C1 | C11H13N3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen chloride | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
product | N-ethyl-2,3-dihydroimidazo[2,1-b]benzothiazol-6-amine monohydrochloride | Cl.C(C)NC=1C=CC2=C(N3C(S2)=NCC3)C1 | InChI=1S/C11H13N3S.ClH/c1-2-12-8-3-4-10-9(7-8)14-6-5-13-11(14)15-10;/h3-4,7,12H,2,5-6H2,1H3;1H
